US04559354
A solution of 6.50 g of 2-[4-(2,3-epoxypropoxy)-phenyl]-thiazole and 7.25 g of 5-[2-(benzylamino)-ethoxy]-salicylamide in 150 ml of isopropanol is heated under reflux for 18 hours and the solvent is subsequently removed in a rotary evaporator. The 1-[N-benzyl-2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(thiazol-2-yl)-phenoxy]-2-propanol, obtained in the form of an oil, is further processed in that form.

reactant | 2-[4-(2,3-epoxypropoxy)-phenyl]-thiazole | 6.50 g | O1C(COC2=CC=C(C=C2)C=2SC=CN2)C1 | C12H11NO2S
reactant | 5-[2-(benzylamino)-ethoxy]-salicylamide | 7.25 g | C(C1=CC=CC=C1)NCCOC1=CC=C(C(C(=O)N)=C1)O | C16H18N2O3
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 1-[N-benzyl-2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(thiazol-2-yl)-phenoxy]-2-propanol | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C=1SC=CN1)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C28H29N3O5S
